US08013008B2
2-fluoro-4-[(2S,3R)-3-hydroxy-2-methyl-3-vinylpyrrolidin-1-yl]benzonitrile
By an operation in the same manner as in Example 1 and using (2S,3R)-2-methyl-3-vinylpyrrolidin-3-ol (554 mg), 2,4-difluorobenzonitrile (300 mg) and lithium carbonate (350 mg), the title compound was obtained as a colorless solid (yield: 177 mg, yield: 50%).

reactant | (2S,3R)-2-methyl-3-vinylpyrrolidin-3-ol | 554 mg | C[C@@H]1NCC[C@@]1(O)C=C | C7H13NO
reactant | 2,4-difluorobenzonitrile | 300 mg | FC1=C(C#N)C=CC(=C1)F | C7H3F2N
reactant | lithium carbonate | 350 mg | C([O-])([O-])=O.[Li+].[Li+]
product | 2-fluoro-4-[(2S,3R)-3-hydroxy-2-methyl-3-vinylpyrrolidin-1-yl]benzonitrile | FC1=C(C#N)C=CC(=C1)N1[C@H]([C@@](CC1)(C=C)O)C | C14H15FN2O
